US06872718B1
2-(tert-Butyl)-4-nitroso-5-methylphenol
To a solution of 2-(tert-butyl)-5-methylphenol (32.9 g, 0.2 mol) in water:ethanol (300 ml, 2:1) was added concentrated hydrochloric acid (20 ml, 0.24 mol) and then cooled to 0° C. To the solution was added dropwise a solution of sodium nitrite (14.5 g, 0.21 mol) in water (40 ml) over 30 minutes. After completing the dropwise addition, the mixture was stirred at the same temperature for 2 hours. The precipitated crystals were collected by a filtration, and washed with a cold water. The resultant crystal was dissolved in an ethyl acetate:THF (9:1) solution, washed with saturated brine, dried over sodium sulfate, and purified by silica gel column chromatography on a small amount of silica gel which was eluted with ethyl acetate. After the solvent was removed under reduced pressure, the residue was suspended in hexane and the crystals were collected by filtration to obtain 31.4 g of the title compound.

reactant | 2-(tert-butyl)-5-methylphenol | 0.2 mol, 32.9 g | C(C)(C)(C)C1=C(C=C(C=C1)C)O | C11H16O
reactant | ethanol | 300 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 0.24 mol, 20 ml | Cl | ClH
reactant | sodium nitrite | 0.21 mol, 14.5 g | N(=O)[O-].[Na+]
solvent | water | O | H2O
solvent | water | 40 ml | O | H2O
product | 2-(tert-Butyl)-4-nitroso-5-methylphenol | 31.4 g, Yield: 81% | C(C)(C)(C)C1=C(C=C(C(=C1)N=O)C)O | C11H15NO2
